US04443443
To a solution of methyl N-[3-(4-phenyl-1-piperazinyl)propyl]dithiocarbamate (12.9 g) in a mixture of water (20 m) and ethanol (30 m) was added sodium azide (3.6 g). The resulting mixture was refluxed with stirring for 4.5 hours. The reaction mixture was concentrated under reduced pressure. After the addition of water to the residue, the mixture was washed successively with ethyl acetate and diethyl ether and then evaporated. To the residue was added ethanol (100 m) and the mixture was filtered. The filtrate was evaporated under reduced pressure. The residue was recrystallized from isopropyl alcohol twice to give 1-[3-(4-phenyl-1-piperazinyl)propyl]-4,5-dihydro-1H-tetrazole-5-thione (3.2 g), mp. 200° to 205° C.

reactant | methyl N-[3-(4-phenyl-1-piperazinyl)propyl]dithiocarbamate | 12.9 g | C1(=CC=CC=C1)N1CCN(CC1)CCCNC(SC)=S | C15H23N3S2
reactant | sodium azide | 3.6 g | [N-]=[N+]=[N-].[Na+]
solvent | water | O | H2O
solvent | ethanol | C(C)O | C2H6O
product | 1-[3-(4-phenyl-1-piperazinyl)propyl]-4,5-dihydro-1H-tetrazole-5-thione | 3.2 g | C1(=CC=CC=C1)N1CCN(CC1)CCCN1N=NNC1=S | C14H20N6S
